US04891450
A solution of 3-(4-chlorophenoxy)-4-fluorobenzyl alcohol (6.3 g) in N,N-dimethylformamide (20 cm3) was added to a stirred suspension of sodium hydride (1.2 g of a 50% dispersion in oil) in N,N-dimethylformamide. After 30 minutes, this mixture was added to a stirred solution of EZ-1,1,1-trifluoro-2-(4-ethoxyphenyl)-3-chloroprop-2-ene (5 g) in N,N-dimethylformamide (25 cm3) at a temperature maintained at -10° C. during the addition. After 45 minutes the reaction mixture was poured into water (150 cm3) and sodium chloride added. The products were extracted into diethyl ether (4×100 cm3), and the combined organic layers were dried over anhydrous sodium sulphate and concentrated by evaporation under reduced pressure. The crude residue was purified by column chromatography on a silica gel support, eluted with n-hexane containing 6% by volume diethyl ether, to give 1,1,1-trifluoro-2-(4-ethoxyphenyl)-3-[3-(4-chlorophenoxy)-4-fluorobenzyloxy]prop-2-ene (6 g).

reactant | 3-(4-chlorophenoxy)-4-fluorobenzyl alcohol | 6.3 g | ClC1=CC=C(OC=2C=C(CO)C=CC2F)C=C1 | C13H10ClFO2
reactant | sodium hydride | [H-].[Na+]
reactant | 1,1,1-trifluoro-2-(4-ethoxyphenyl)-3-chloroprop-2-ene | 5 g | FC(C(=CCl)C1=CC=C(C=C1)OCC)(F)F | C11H10ClF3O
reactant | sodium chloride | [Cl-].[Na+]
solvent | N,N-dimethylformamide | 20 cm3 | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 25 cm3 | CN(C=O)C | C3H7NO
solvent | water | 150 cm3 | O | H2O
product | 1,1,1-trifluoro-2-(4-ethoxyphenyl)-3-[3-(4-chlorophenoxy)-4-fluorobenzyloxy]prop-2-ene | 6 g | FC(C(=COCC1=CC(=C(C=C1)F)OC1=CC=C(C=C1)Cl)C1=CC=C(C=C1)OCC)(F)F | C24H19ClF4O3
